Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
aspirin / carvedilol / torsemide / metoprolol
 
Attending: ___
 
Chief Complaint:
Right hip pain 
 
Major Surgical or Invasive Procedure:
Right hip ORIF ___
Midline insertion ___

 
History of Present Illness:
___ male w/ PMH systolic congestive heart failure EF 45%
(echo ___ at ___), COPD, DM, CKD Stage IV (Baseline creat
2.5-2.8), CVA ___ (on Plavix, residual L arm weakness)as well 
as
an NSTEMI in ___, remote hx partial laryngectomy for throat
cancer, hx GI bleed who presents with the above fracture s/p
mechanical fall. He reports he was in his home earlier today 
when
he caught his foot on a rug while reaching for a door handle and
suffered a twisting fall onto his right side. He denies head
strike. His daughter arrived about 30 min later and found him on
the ground. He reports he slid himself a little to rest his head
on the stairs but did not get up. He denies any symptoms of
dizziness, fatigue, headache prior to the fall. He usually
ambulates without a cane or walker. He lives in the home with 
his
daughter. Did receive ___ a few weeks ago for low Hb and
platelets. 
Last took Plavix this morning. 
 
Past Medical History:
Hypertension
Hyperlipidemia
Systolic Congestive Heart Failure EF 45% ___
Hypothyroidism
DMII
Chronic Kidney Disease Stage 4 (Baseline creat 2.5-2.8)
COPD
MI
Throat Cancer s/p resection 

PAST SURGICAL Hx
s/p partial laryngectomy 1990s
R elbow surgery
vasectomy
tonsillectomy
skin graft to hand
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM
BP 143 / 65 HR 97 RR 18SaO2  93% 2 L NC
General: Well-appearing male in no acute distress. In C-collar. 
Right lower extremity:
- Skin intact
- Leg resting in flexion and external rotation 
- Thigh with some swelling laterally but compartments soft 
- Fires ___
- SILT S/S/SP/DP/T distributions
- 2+ DP pulse, WWP

DISCHARGE PHYSICAL EXAM
___ 0747 Temp: 97.3 PO BP: 145/69 HR: 94 RR: 19 O2 sat: 97%
O2 delivery: Ra 
___ Total Output: 1670ml Urine Amt: 1670ml 
___ Total Intake: 643ml PO Amt: 240ml IV Amt Infused: 403ml 

 (197.51 lb)  ___, last weight 192 lb on ___ 
General: chronically ill appearing male in no acute distress
HEENT: sclera anicteric, MM dry, dentures in place
Lungs: transmitted upper airway sounds diffusely
CV: regular rhythm, normal S1 + S2, no murmurs  
Abdomen: distended abdomen, softer than prior, normoactive bowel
sounds 
Ext: warm, well perfused
Neuro: Face grossly symmetric; speech fluent.
Foley in place draining fruit punch urine, no clots

 
Pertinent Results:
ADMISSION LABS
=============
___ 07:35PM BLOOD WBC-11.8* RBC-3.88* Hgb-11.1* Hct-33.7* 
MCV-87 MCH-28.6 MCHC-32.9 RDW-15.4 RDWSD-48.4* Plt ___
___ 07:35PM BLOOD Neuts-76.0* Lymphs-6.3* Monos-8.0 
Eos-8.0* Baso-0.3 Im ___ AbsNeut-8.98* AbsLymp-0.74* 
AbsMono-0.95* AbsEos-0.94* AbsBaso-0.04
___ 07:35PM BLOOD ___ PTT-22.3* ___
___ 07:35PM BLOOD Glucose-182* UreaN-45* Creat-2.3*# Na-144 
K-4.5 Cl-109* HCO3-20* AnGap-15
___ 07:35PM BLOOD Calcium-9.7 Phos-3.5 Mg-1.9

NOTABLE LABS
============
___ 05:23AM BLOOD ALT-25 AST-78* LD(LDH)-365* AlkPhos-66 
TotBili-0.5
___ 07:35PM BLOOD CK-MB-5 cTropnT-0.04*
___ 04:09AM BLOOD CK-MB-5 cTropnT-0.04*
___ 10:39AM BLOOD cTropnT-0.06*
___ 05:05PM BLOOD CK-MB-29* cTropnT-0.09*
___ 10:52PM BLOOD CK-MB-28* cTropnT-0.12*
___ 05:23AM BLOOD CK-MB-31* cTropnT-0.21*
___ 11:44AM BLOOD CK-MB-36* cTropnT-0.29*
___ 04:55PM BLOOD CK-MB-31* cTropnT-0.37*
___ 11:12PM BLOOD CK-MB-24* cTropnT-0.40*
___ 06:01AM BLOOD CK-MB-18* cTropnT-0.49*
___ 01:20PM BLOOD CK-MB-11* cTropnT-0.46*

DISCHARGE LABS:
===============
___ 12:46PM BLOOD WBC-9.4 RBC-2.53* Hgb-7.4* Hct-23.4* 
MCV-93 MCH-29.2 MCHC-31.6* RDW-17.6* RDWSD-58.7* Plt ___
___ 06:00AM BLOOD Glucose-131* UreaN-47* Creat-2.0* Na-140 
K-5.1 Cl-106 HCO3-24 AnGap-10
___ 06:00AM BLOOD Calcium-8.4 Phos-3.5 Mg-2.1

IMAGING
=======
___ Imaging DX PELVIS & FEMUR 
1.  Postsurgical changes of intramedullary nail fixation for 
right femoral 
intertrochanteric fracture without evidence for hardware 
complication. 

CXR ___
Compared to chest radiographs ___ through ___. 
  
Pulmonary edema has substantially improved, nearly resolved.  
Consolidation  left lung base probably atelectasis, accompanied 
by moderate pleural effusion.  Mild cardiomegaly improved.  No 
pneumothorax. 
  
Nasogastric drainage tube passes into the stomach and out of 
view. 

V/Q Scan ___
IMPRESSION:  Low likelihood ratio for recent pulmonary embolism.

KUB ___
Nonobstructive bowel gas pattern.
The enteric tube tip terminates just distal to the 
gastroesophageal junction
and should be advanced if it has to be used for feeding 
purposes.

CXR ___
Lungs are low volume with bibasilar atelectasis.  NG tube 
projects below the left hemidiaphragm.  Cardiomediastinal 
silhouette is stable.  There are small bilateral effusions.  No 
pneumothorax is seen.

KUB Supine only ___
No radiographic evidence of small bowel obstruction or ileus.

TTE ___
The left atrial volume index is moderately increased. There is 
no evidence for an atrial septal defect by 2D/ color Doppler. 
The estimated right atrial pressure is ___ mmHg. There is mild 
symmetric left ventricular hypertrophy with a normal cavity 
size. There is moderate regional left ventricular systolic 
dysfunction with near akinesis of the inferior and inferolateral 
walls (see schematic) and preserved/normal contractility of the 
remaining segments. Quantitative biplane left ventricular 
ejection fraction is 36 %. Left ventricular cardiac index is 
high (>4.0 L/min/m2). There is no resting left ventricular 
outflow tract gradient. Normal right ventricular cavity size 
with normal free wall motion. The aortic sinus diameter is 
normal for gender with normal ascending aorta diameter for 
gender. The aortic arch diameter is normal. The aortic valve 
leaflets (3) are mildly thickened. There is no aortic valve 
stenosis. There is trace aortic regurgitation. The mitral valve 
leaflets are mildly thickened with no mitral valve prolapse. 
There is moderate mitral annular calcification. There is mild 
[1+] mitral regurgitation. Due to acoustic shadowing, the 
severity of mitral regurgitation could be UNDERestimated. The 
tricuspid valve leaflets appear structurally normal. There is 
physiologic tricuspid regurgitation. The pulmonary artery 
systolic pressure could not be estimated. There is a trivial 
pericardial effusion.
IMPRESSION: Mild symmetric left ventricular hypertrophy with 
mild regional systolic dysfunction most consistent with single 
vessel coronary artery disease (PDA distribution). Mild mitral 
regurgitation.

CXR ___

Compared to chest radiograph ___.
 
Mild pulmonary edema is new and pulmonary arteries are not 
surprisingly more dilated.  Mild cardiomegaly stable.  Pleural 
effusions small if any.  No pneumothorax.
 
Nasogastric drainage tube is barely visible below the level of 
the carina, but it probably still enters the stomach.

CXR ___
Mild pulmonary edema is new, moderate cardiomegaly has 
increased.  No
pneumothorax.  Small pleural effusions are likely.  Nasogastric 
drainage tube
passes into the stomach and out of view.

KUB ___
Air distended stomach without evidence of obstruction.  No 
evidence of
volvulus.

EKGS ___
See final interpretations under scanned ECG in OMR 

NCHCT ___
No acute intracranial process.
Global volume loss and sequela of chronic small vessel disease.  
Chronic right
frontal, right parietal, and left cerebellar infarcts.

CT C SPINE ___. No cervical spine fracture or malalignment.
2. Diffuse idiopathic skeletal hyperostosis spanning the 
visualized portion of
the cervical and upper thoracic spine.  Superimposed 
ossification of the
posterior longitudinal ligament resulting at least mild canal 
narrowing. 
Additional degenerative changes causing moderate to severe 
bilateral foraminal
narrowing as above.
3. A 1.2 cm hypodense nodule either arising from the posterior 
aspect of the
right lobe of the thyroid versus potentially representing a 
parathyroid
adenoma.
 
FEMUR XR ___
There is an acute mildly displaced obliquely oriented 
intertrochanteric
fracture of the right femur.  No additional fractures the femur 
distally.

PELVIS AP ___. Acute mildly displaced possibly comminuted intertrochanteric 
fracture with
mild valgus angulation and lateral displacement of distal 
fracture fragment. 
No evidence of dislocation.
2. Mild degenerative changes seen in the left hip, which appears 
intact.
 
CXR ___. Prominence of pulmonary vasculature without evidence of frank 
edema.
2. Mild-to-moderate cardiomegaly.

 
Brief Hospital Course:
Mr. ___ is a ___ year old man a history of stage IV CKD 
(baseline creatinine 2.5-2.8), COPD, HTN, HLD, diabetes, status 
post CVA with residual left arm weakness, history of GI bleed, 
history of throat cancer status post partial laryngectomy 
(___), CAD (TTE at ___ akinesis, lateral 
hypokinesis, no cath/intervention),  HFrEF (EF 45%)  who 
presented to ___ after a mechanical fall with resultant right 
proximal femur fracture, and was found to have significant 
nausea, emesis, demand ischemia, now s/p right hip arthroplasty. 
Course complicated by SVT, bowel dysmotility, aspiration, 
dysphagia, and acute on chronic heart failure exacerbation.

===================
Transitional Issues
===================
DISCHARGE WEIGHT:  (197.51 lb) standing ___
DISCHARGE DIURETIC: 40mg PO lasix
DISCHARGE Cr: 1.8
DISCHARGE HGB: 7.1
NEW CARDIAC MEDICATIONS: diltiazem, Imdur/hydral, changed 
clonidine po to patch

[] This pt had Hgb 7.1 on discharge in the setting of IMPROVING 
hematuria. Given his tenuous volume status, his improving 
hematuria which is likely the cause of his anemia, and the fact 
that he will restart Procrit on discharge, we elected NOT to 
transfuse for this value. 
[] Please obtain CBC on ___ and transfuse for Hgb 6.9 or 
less
[] Consider diuresis with blood transfusion
[] Please attempt to discontinue foley ___, placed during this 
admission
[] Please follow weights daily and titrate diuretics as 
necessary
[] Please obtain electrolytes within 5 days of discharge
[] Orthopedics recommends 30 days of DVT prophylaxis post 
___
[] Receives Procrit from nephrologist, recommend restarting this 
medication given his anemia during this admission
[] Insulin started this admission. Please follow sugars on 
glipizide and determine if needed
[] Please continue to titrate antihypertensives
[] Given concern for atrial fibrillation and attempt to avoid 
tachyarrhythmia after demand ischemia, diltiazem was initiated. 
Please evaluate if continuation is necessary
[] Per cardiology: Consider 30 day event monitor to look for 
atrial fibrillation. Consider anticoagulation if present.
[] Had reaction concerning for anaphylaxis to metoprolol. Please 
ensure allergy listed in medical records. 
[] Consider podiatry referral as an outpatient per patient 
request for nail clipping 
[] Patient may follow up with ENT 2 weeks after discharge. To 
schedule
appointment at ___ please call ___. 
Patient
may also follow-up with his ENT provider, Dr. ___.
- Incidental findings on imaging: 
-- A 1.2 cm hypodense nodule either arising from the posterior 
aspect of the  right lobe of the thyroid versus potentially 
representing a parathyroid  adenoma.
================================== 

# Right hip Fracture. Patient suffered mechanical fall with 
initial XR hip showing acute mildly displaced obliquely oriented 
intertrochanteric fracture of the right femur with slight valgus 
angulation and lateral displacement of distal fracture fragment. 
He underwent right hip ORIF on ___ after management of NSTEMI, 
Hypertension and tachycardia as below. Cardiology was consulted 
for NSTEMI and recommended holding plavix in ___ 
setting as had been more than ___ year since last cardiac event 
and indication was secondary prevention in a patient with ASA 
intolerance. Plavix was resumed. To complete 30 days of DVT 
prophylaxis. 14 day Xrays showing well-positioned hardware. 
Staples were removed. Discharged with follow up with 
orthopedics.

# NSTEMI, Type II. Patient had ECGs obtained in setting of 
nausea and dyspepsia overnight on ___, with one EKG on ___ 
at ___levation in the inferior leads in 
setting of prior infarcts
with repeat ECG at 450 1:18 AM showing resolution of those ECG 
changes. Trops and MB rose in setting of nausea, vomiting and 
elevated BPs/rates with peak MB of 36 and peak trop of 0.49 on 
___. TTE ___
showed expected findings with similar WMAs compared to prior at 
___ ___ with stable EF ___. He remained chest pain 
free with resolved dyspepsia after management of gastric 
distension, hypertension and tachycardia and patient was taken 
to the OR on ___. Home Plavix resumed postoperatively. 

#Hypoxemic respiratory failure:
Developed postoperatively initially requiring ___ L,. Felt to be 
multifactorial, due to atelectasis, aspiration without evidence 
of pneumonia, and acute on chronic heart failure exacerbation. 
Outpatient records note emphysema, and though not filled, 
prescribed symbicort in past and he was given duonebs. PE was 
considered but unlikely given VQ low probability, LENIs negative 
___. He was weaned to room air and improved with IV diuresis.

# Concern for narcotic induced dysmotility: 
Patient with significant nausea and emesis that developed early 
in the morning of ___ with inability to tolerate PO, worsened 
morphine in ED. KUB ___ showed significant gastric distension 
with air but with no evidence of volvulus or bowel obstruction. 
Patient has no distal dilated loops and has bowel gas down to 
the rectum. Likely delayed gastric emptying and /or gastric 
atony, in setting of previous morphine administration. 
Eventually patient began to have bowel movements, NG tube was 
removed. He was continued on aggressive bowel regimen.

#HFrEF. 
#ICM
Last EF ___ on ___ TTE, with WMA likely etiology ischemic 
cardiomyopathy from prior insults. At least 5L net positive this 
admission, 5Lb above dry weight from ___ renal appointment. 
Restarted losartan post-operatively. Given concurrent 
challenging hypertension, afterload reduction with isosorbide, 
hydralazine was started which was well-tolerated. He was 
diuresed and discharged on home diuretic. Please obtain standing 
weights and titrate diuretics as needed.

# Question Atrial fibrillation with RVR:
# SVT:
# Recent demand NSTEMI:
Patient had uncontrolled hypertension and likely rebound 
tachycardia initially in admission in setting of inconsistent 
delivery of home clonidine iso nausea. IV metoprolol controlled 
BPs and HRs overnight on ___ (with judicious IV fluid for 
fluid losses for NGT) but pt developed itchy rash and so 
metoprolol was
stopped. Began developing AF w/ RVR overnight ___ and 
persistent ___, triggering for rates in 150s after which 
time diltiazem was initiated. Cardiology was consulted and 
recommended continuation of diltiazem. On review of EKGs, tele, 
rhythm could be consistent with other atrial tachyarrythmia, 
such as MAT. In this context, potential risks of anticoagulation 
outweighed benefits. Eventually heart rates were controlled with 
diltiazem 60mg q8h. Per cardiology, consider anticoagulation in 
future, repeat 30day monitoring. 

#Hypertension.
At home on clonidine 0.1mg TID, losartan 100mg. Recently, 
developed rash to carvedilol in outpatient setting. Pressures 
were difficult to control. Achieved reasonable control with 
blood pressures 120-160s/70s with losartan, clonidine patch, 
hydral, isosorbide, and as below diltiazem. 

#Dysphagia
#S/P partial laryngectomy
#Malnutrition
Patient was noted to be aspiration. Prior to admission, was told 
would have swallow issues due to history of laryngectomy, but 
did not have modified diet. Developed posterior arytenoid edema 
which
was revealed during initial speech and swallow evaluation of 
aspiration, thought to be due to intubation, trauma from NG 
placement, could not rule out betablocker allergy. Silent 
aspiration on repeat evaluation by speech and swallow after 
edema improved s/p dexamethasone administration. After extensive 
risk
regarding aspiration, including pneumonia, respiratory failure, 
and death, patient and family decided to po intake and preferred 
no restriction of consistencies. 

# Anemia, acute on chronic:
Slow downtrend postoperatively. 7.1 ___ iso fluid 
administration. Likely contribution from acute illness, 
operative losses. Transfused 1 U PRBC app ___. On Procrit as 
outpatient, which should be considered if rehab stay is 
prolonged. 

#Posterior arytenoid swelling
#Metoprolol allergy
In setting of concern for aspiration, speech and swallow 
conducted fiberoptic FEES exam which revealed  laryngeal edema 
without friable tissue or appreciable fluid collection. He was 
then evaluated by ENT who felt the bilateral nature of edema and 
location possibly due to recent intubation versus NG tube 
attempts, but could not rule out allergic reaction to 
metoprolol. He was treated with a short course of dexamethasone 
and edema improved on serial fiberoptic exam. Patient may follow 
up with ENT 2 weeks after discharge. Patient may also follow-up 
with his ENT provider, Dr. ___. 

#Metoprolol allergy:
Developed severe rash after ___ metoprolol administration, and 
subsequent aspiration, and was found to have laryngeal edema as 
above. While trauma is a possible explanation for edema, must 
note that laryngeal edema occurred after administration to 
metoprolol, to which he had severe skin reaction, with 
increasing concern for aspiration in the ___ after 
administration which was likely due to airway narrowing, raised 
the question of anaphylaxis. After discussion with ENT, it was 
determined that it would be difficult to definitely attribute 
reaction to drug administration, but given degree of reaction 
and potential consequences, anaphylaxis to metoprolol as 
allergy. Patient and family were informed of this and cautioned 
regarding this allergy. 

#Hematuria:
#Foley:
Noted ___ after report of tugged foley. No clots, at risk for 
bleeding on DAPT. Tamsulosin started ___ in anticipation of 
projected void trial. Please attempt to remove foley ___.

CHRONIC:
========
# Gout. Continued home allopurinol ___ mg daily.

# DM II. Held home glipizide while inpatient. Insulin sliding 
scale with 5U basal used with adequate glycemic control.

# Hypothyroidism. Continued home levothyroxine 25 mcg daily.

# Hx CVA. Patient with residual left arm weakness. Plavix 
resumed.

>30 minutes spend on patient discharge planning and 
coordination. Of note family aware of low Hgb and plan to 
recheck it. We debated risk and benefits of given blood and 
given relatively asymptomatic, leaned towards restarting Procrit 
as outpatient or at rehab and monitor Hgb closely (especially 
given hematuria has significantly improved).
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Clopidogrel 75 mg PO DAILY 
2. Losartan Potassium 100 mg PO DAILY 
3. Furosemide 40 mg PO DAILY 
4. Allopurinol ___ mg PO DAILY 
5. Levothyroxine Sodium 25 mcg PO DAILY 
6. CloNIDine 0.1 mg PO TID 
7. GlipiZIDE 5 mg PO BID 
8. Pravastatin 80 mg PO QPM 
9. Gabapentin 300 mg PO QHS 
10. Ferrous Sulfate 325 mg PO BID 
11. Ranitidine 150 mg PO QHS 
12. Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H  
2.  Bisacodyl 10 mg PO/PR DAILY  
3.  Diltiazem 60 mg PO Q8H  
4.  Heparin 5000 UNIT SC BID Duration: 30 Days  
5.  HydrALAZINE 10 mg PO Q6H  
6.  Glargine 5 Units Breakfast
Insulin SC Sliding Scale using HUM Insulin 
7.  Isosorbide Dinitrate 10 mg PO TID  
8.  Polyethylene Glycol 17 g PO BID  
9.  Senna 17.2 mg PO HS  
10.  Tamsulosin 0.4 mg PO QHS  
11.  Clonidine Patch 0.2 mg/24 hr 1 PTCH TD QWED  
12.  Allopurinol ___ mg PO DAILY  
13.  Clopidogrel 75 mg PO DAILY  
14.  Ferrous Sulfate 325 mg PO BID  
15.  Furosemide 40 mg PO DAILY  
16.  Gabapentin 300 mg PO QHS  
17.  GlipiZIDE 5 mg PO BID  
18.  Levothyroxine Sodium 25 mcg PO DAILY  
19.  Losartan Potassium 100 mg PO DAILY  
20.  Pravastatin 80 mg PO QPM  
21.  Ranitidine 150 mg PO QHS  
22.  Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary
======
Right hip fracture
Type 2 Non-ST elevation myocardial infarction
Hypertension
SVT
Narcotic induced bowel hypomotility
Dysphagia
Acute on chronic heart failure with reduced ejection fraction

Secondary
=======
Gout
Coronary Artery Disease
Hypothyroidism
History of stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 
  
It was a pleasure caring for you at ___ 
___.  

WHY WAS I IN THE HOSPITAL?  
- You were admitted to the hospital after a fall

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- You were found to have a fracture of your right proximal 
femur, part of your hip joint
- You were initially admitted to the surgery service but 
transferred to the medicine service for management of your 
medical problems while waiting for surgery
- Your hip fracture was repaired by the orthopedics team
- You developed significant nausea, vomiting and abdominal 
distension on the first day of your hospital stay.  You had a 
nasogastric tube placed to decompress your stomach until you 
started to have bowel movements.
- You had throat swelling. This could have been due to having 
the breathing tube placed for your surgery. It also could have 
been due to a medication called metoprolol that was given. 
Because of this, you should not take metoprolol.
- You were seen by our ear, nose and throat doctors and treated 
with medication to help the swelling
- You had difficulty swallowing. You were seen by our speech and 
swallow experts. When you swallow, food and liquid goes to your 
lung. We discussed that if you eat there is a risk of 
aspirating, which can cause difficulty breathing, pneumonia, and 
death. However, you are choosing to eat knowing that risk 
because this is important to your quality of life.
- You had high blood pressures and fast heart rates as a result 
of not being able to take your home medications. Your heart 
rates and blood pressures came under better control with 
additional medications.
- You were given medication to get rid of extra fluid
  
 WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
 - Please take your medications and go to your follow up 
appointments as described in this discharge summary.  
 - Weigh yourself every day. If your weight goes up more than 
3lbs in one day, call your doctor. You may need an adjustment in 
your water pill. Your discharge weight is: 197.51 lb
 - You have an allergy to metoprolol, a beta blocker medication, 
that causes anaphylaxis. It is extremely important to inform all 
health care providers about this reaction and avoid this 
medication.
 - If you experience any of the danger signs listed below, 
please call your primary care doctor or go to the emergency 
department immediately.   

 We wish you the best!  

 Sincerely,  
 Your ___ Team  
 
Followup Instructions:
___